### PR TITLE
[Merged by Bors] - feat: `ENNReal.ofNNReal` preserves `limsup` and `liminf`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean [hunk 1]
```diff
@@ -1389,72 +1389,81 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
...
     ((eventually_lt_of_limsup_lt) a_u)) fun _ ab_x ↦ (mul_lt_mul ab_x.2 ab_x.1).trans c_ab
 
 /-- If `xs : ι → ℝ≥0∞` is bounded, then we have `liminf (toReal ∘ xs) = toReal (liminf xs)`. -/
-lemma liminf_toReal_eq {ι : Type*} {F : Filter ι} [NeBot F] {b : ℝ≥0∞} (b_ne_top : b ≠ ∞)
-    {xs : ι → ℝ≥0∞} (le_b : ∀ᶠ i in F, xs i ≤ b) :
-    F.liminf (fun i ↦ (xs i).toReal) = (F.liminf xs).toReal := by
-  have liminf_le : F.liminf xs ≤ b := by
+lemma liminf_toReal_eq [NeBot f] {b : ℝ≥0∞} (b_ne_top : b ≠ ∞) (le_b : ∀ᶠ i in f, u i ≤ b) :
+    f.liminf (fun i ↦ (u i).toReal) = (f.liminf u).toReal := by
+  have liminf_le : f.liminf u ≤ b := by
```
Comment (b-mehta) [inline Mathlib/Topology/Instances/ENNReal/Lemmas.lean:1418]: This docstring no longer corresponds to the variable names, similarly below

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean [hunk 2]
```diff
@@ -1389,72 +1389,81 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
...
+    limsup u f = limsup (fun i ↦ (u i : ℝ≥0∞)) f := by
+  refine eq_of_forall_nnreal_iff fun r ↦ ?_
+  rw [coe_le_coe, le_limsup_iff, le_limsup_iff]
+  simp [forall_ennreal]
+
+@[simp, norm_cast]
+lemma ofNNReal_liminf {u : ι → ℝ≥0} (hf : f.IsCoboundedUnder (· ≥ ·) u) :
+    liminf u f = liminf (fun i ↦ (u i : ℝ≥0∞)) f := by
+  refine eq_of_forall_nnreal_iff fun r ↦ ?_
+  simp
```
Comment (b-mehta) [inline Mathlib/Topology/Instances/ENNReal/Lemmas.lean:1463]: Please remove this non-terminal simp, as per the style guide.

**Review by b-mehta — COMMENTED** [review]
It also seems sensible to me to put these new lemmas in `Mathlib.Order.Filter.ENNReal` (in fact this entire section looks like it could live there...)

File: Mathlib/Topology/Instances/ENNReal/Lemmas.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Topology/Instances/ENNReal/Lemmas.lean:1463]: oops, removed it only from the other lemma

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
